US04970213
A suspension of 4 g of 3-ethoxycarbonyl-7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine in 30 cm3 of acetic acid and 30 cm3 of 50% hydrochloric acid is heated at a temperature close to 100° C. for 2 hours. After cooling to about 20° C., 100 cm3 of water are added. The precipitate formed is drained, washed with 3 times 50 cm3 of water and recrystallized from 80 cm3 of dimethylformamide. 3.4 g of 7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a colourless solid melting at 350°-352° C.

reactant | 3-ethoxycarbonyl-7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 4 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C(=C(C(=C3)F)F)F)=O | C16H11F3N2O3
reactant | water | 100 cm3 | O | H2O
solvent | acetic acid | 30 cm3 | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 30 cm3 | Cl | ClH
product | 7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 3.4 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C(=C1F)F | C14H7F3N2O3
